Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1],3.75181910809
[H:1][O:2][C:3]([O:4][H:5])=[C:6]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.28901902701
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.7134581857
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2],4.88315832529
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2],4.44033536685
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9],4.63747939631
[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-3.78178317808
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.94110772241
[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],0.6491903933600001
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.54698662193
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10],8.52888626045
[C:4](\[H:5])(=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],0.6069398812300001
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],1.7026851259600002
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12],4.12015447175
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],3.91064687873
[H:10].[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-5.03651430464
[H:1][C:2]([H:3])[C:5]#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.06804936617
[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],0.1483449091499999
[C:11]([H:12])([H:13])[H:14].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.63902479065
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.93664186078
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],7.012341730499999
[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8]>>[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-4.411137319040001
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.05532999194
[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9][H:10],-5.821350091419999
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],4.01002723585
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-4.39812090522
[H:1][C:2][O:3][O:4][H:5]>>[H:1][C:2]=[O:3].[O:4][H:5],0.54766345297
[C:1]#[C:2][O:3][C:4][H:6].[O:5]>>[C:1]#[C:2][O:3][C:4](=[O:5])[H:6],-7.89423642264
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],5.15270065206
